US07700306B2
Synthesis of 2-cyano-3-(4-tert-butoxycarbonyloxyphenyl) acrylic acid
5.6 g (30 mmol) of 2-cyano-3-(4-hydroxyphenyl) acrylic acid dissolved in 40 ml acetonitrile were stirred with 4.6 ml (33 mmol) of triethylamine until a clear solution was obtained. 0.2 g (4 mmol) 4-dimethylaminopyridine and 7.3 g (33 mmol) tert-butylpyrocarbonate were then added to the clear solution. After 2 hours reaction (the solution is at that point colourless), the solution was reduced to its half volume and washed with 200 ml of a cold 5% citric acid solution.

reactant | 2-cyano-3-(4-hydroxyphenyl) acrylic acid | 30 mmol, 5.6 g | C(#N)C(C(=O)O)=CC1=CC=C(C=C1)O | C10H7NO3
reactant | triethylamine | 33 mmol, 4.6 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butylpyrocarbonate | 33 mmol, 7.3 g | C(C)(C)(C)OC(=O)OC(=O)[O-]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 4 mmol, 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-cyano-3-(4-tert-butoxycarbonyloxyphenyl) acrylic acid | C(#N)C(C(=O)O)=CC1=CC=C(C=C1)OC(=O)OC(C)(C)C | C15H15NO5
